US05258551
Preparation of N-methyl-2-(2-phenoxyphenyl)-2-oxoacetamide
A mixture of 2-phenoxybenzoyl chloride (1.09 g) and methyl isocyanide (383 mg) was stirred at 50° C. for 3 hours. Then, the mixture was diluted with acetone (10 ml), and water (2 ml) and calcium carbonate (500 mg) were added. The resulting mixture was stirred for 1 hour. The mixture was neutralized with dilute hydrochloric acid and extracted with methylene chloride. After drying the organic layer, the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with hexane-ethyl acetate (6:1) to obtain the title compound as crystals (1.04 g, Yield: 87.1%), mp: 94°-95° C.

reactant | 2-phenoxybenzoyl chloride | 1.09 g | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO2
reactant | methyl isocyanide | 383 mg | C[N+]#[C-] | C2H3N
reactant | calcium carbonate | 500 mg | C([O-])([O-])=O.[Ca+2]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 2 ml | O | H2O
product | N-methyl-2-(2-phenoxyphenyl)-2-oxoacetamide | 1.04 g, Yield: 87.1% | CNC(C(=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO3
